US07241923B2
(vii) Ethyl (2S)-2-ethoxy-3-{4-[2-(heptanoylamino)ethyl]phenyl}propanoate
Ethyl (2S)-3-[4-(2-aminoethyl)phenyl]-2-ethoxypropanoate (320 mg 1.206 mmol) and heptanoic acid (157 mg, 1.206 mmol) were mixed in DCM (10 ml). EDC (243 mg, 1.266 mmol) was added and then DMAP (147 mg, 1.206 mmol) was added. The mixture was stirred at room temperature overnight. It was then washed with 1% hydrochloric acid, water, 1% sodium hydrogencarbonate aqueous solution, water and brine and dried with magnesium sulfate. The solvent was evaporated in vacuum. Chromatography of the residue on a column (ISOLUTE, SI, 2 g/6 ml) using DCM, MeOH/DCM (0.5:99.5) and then MeOH/DCM (1:99) as eluant gave 166 mg desired product, yield 37%.

reactant | Ethyl (2S)-3-[4-(2-aminoethyl)phenyl]-2-ethoxypropanoate | 1.206 mmol, 320 mg | NCCC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC | C15H23NO3
reactant | heptanoic acid | 1.206 mmol, 157 mg | C(CCCCCC)(=O)O | C7H14O2
reactant | EDC | 1.266 mmol, 243 mg
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.206 mmol, 147 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Ethyl (2S)-2-ethoxy-3-{4-[2-(heptanoylamino)ethyl]phenyl}propanoate | 166 mg, yield 37% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)CCNC(CCCCCC)=O | C22H35NO4
